US08003651B2
(R)-tert-butyl 4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate was treated with HCl (4M in dioxane, 6 mL) in DCM (20 mL) for 6 hours to provide (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride (0.55 g, 99%). MS (APCI+) [M+H] +219.

reactant | (R)-tert-butyl 4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | C[C@@H]1CCC=2N=CN=C(C21)N2CCN(CC2)C(=O)OC(C)(C)C | C17H26N4O2
reactant | HCl | 4M, 6 mL | Cl | ClH
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride | 0.55 g, 99% | Cl.Cl.C[C@@H]1CCC=2N=CN=C(C21)N2CCNCC2 | InChI=1S/C12H18N4.2ClH/c1-9-2-3-10-11(9)12(15-8-14-10)16-6-4-13-5-7-16;;/h8-9,13H,2-7H2,1H3;2*1H/t9-;;/m1../s1
